US05374641
4-[2-Hydroxy-2-(3-pyridyl)ethyl]benzaldehyde (1.34 g) and (carboethoxyethylidene)triphenylphosphorane (4.28 g) were dissolved in 50 ml of chloroform, and stirred for 1.5 hours, and the solvent was distilled off under reduced pressure. The residue obtained was subjected to chromatography on a silica gel column, and from a fraction eluted with chloroform-methanol(10:1v/v) was obtained 1.84 g of ethyl 4-[2-hydroxy-2-(3-pyridyl)ethyl]-α-methylcinnamate.

reactant | 4-[2-Hydroxy-2-(3-pyridyl)ethyl]benzaldehyde | 1.34 g | OC(CC1=CC=C(C=O)C=C1)C=1C=NC=CC1 | C14H13NO2
reactant | (carboethoxyethylidene)triphenylphosphorane | 4.28 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-[2-hydroxy-2-(3-pyridyl)ethyl]-α-methylcinnamate | 1.84 g | OC(CC1=CC=C(C=C(C(=O)OCC)C)C=C1)C=1C=NC=CC1 | C19H21NO3
